US07582629B2
4-(1H-Benzimidazol-2-ylamino)-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 2-amino-1H-benzimidazole in a similar manner as described for e.g. Examples 6-9, 22-25, 28 and 32-35. 1H NMR (500 MHz, CD3CN): δ 1.00 (t, 3H), 1.43-1.53 (m, 2H), 1.76-1.85 (m, 2H), 3.71 (t, 2H), 7.12-7.19 (m, 4H), 7.34-7.68 (m, 5H), 8.03-8.06 (m, 2H).

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 2-amino-1H-benzimidazole | NC1=NC2=C(N1)C=CC=C2 | C7H7N3
product | 4-(1H-Benzimidazol-2-ylamino)-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | N1C(=NC2=C1C=CC=C2)NC=2C(N(S(C2C2=CC=CC=C2)(=O)=O)CCCC)=O | C20H20N4O3S
